US07858646B2
Synthesis of 3-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenylamino]-benzoic acid methyl ester
Combine 1-[4-(3-amino-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone (500 mg, 1.67 mmol), 3-bromo-benzoic acid methyl ester (326 mg, 1.52 mmol) and cesium carbonate (693 mg, 2.13 mmol) in toluene (25 mL) and stir. Purge reaction vessel with argon. Add BINAP [rac-2,2′-Bis(diphenyl-phosphino)-1,1′-binaphthyl] (142 mg, 0.228 mmol), and palladium acetate (34 mg, 0.152 mmol). Purge reaction vessel with argon. Heat to 100° C. After 18 hours, cool to ambient temperature. Add 10% aqueous citric acid, and extract with ethyl acetate. Combine the organic layers, dry with sodium sulfate, filter and concentrate to dryness. Purify the resulting residue by flash chromatography eluting with ethyl acetate:hexanes to yield the title compound as a white solid (280 mg, 43%): 1H NMR (DMSO-d6) δ 0.81 (t, 3H), 1.46 (sextet, 2H), 2.57 (m, 5H), 3.82 (s, 3H), 5.23 (s, 2H), 6.71 (d, 1H), 6.95 (d, 1H), 7.01 (d, 1H), 7.19 (m, 1H), 7.28-7.41 (m, 4H), 7.65 (m, 1H), 7.81 (d, 1H), 8.49 (bs, 1H), 12.84 (s, 1H).

reactant | 1-[4-(3-amino-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone | 1.67 mmol, 500 mg | NC=1C=C(COC2=C(C(=C(C=C2)C(C)=O)O)CCC)C=CC1 | C18H21NO3
reactant | 3-bromo-benzoic acid methyl ester | 1.52 mmol, 326 mg | COC(C1=CC(=CC=C1)Br)=O | C8H7BrO2
reactant | cesium carbonate | 2.13 mmol, 693 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.228 mmol, 142 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.152 mmol, 34 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenylamino]-benzoic acid methyl ester | 280 mg, 43% | COC(C1=CC(=CC=C1)NC1=CC(=CC=C1)COC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C26H27NO5
